US08426414B2
A mixture of tert-butyl (2S,3S)-1-((1R,2R)—N-(4-hydroxyphenyl)-2-(pyridin-2-yl)cyclopropanecarboxamido)-3-methylpentan-2-ylcarbamate (69 mg, 0.15 mmol), potassium carbonate (63 mg, 0.46 mmol) and DMF (3 mL) was treated with cyclobutylmethyl bromide (21 μL, 0.18 mmol). The resulting reaction mixture was maintained at 70° C. with vigorous stirring overnight. The mixture was allowed to cool to room temperature, then partitioned between H2O (30 mL) and diethyl ether (20 mL). The layers were separated and the aqueous layer was extracted with diethyl ether (2×20 mL). Combined organics were washed with H2O (30 mL) and brine (30 mL), then dried over Na2SO4, filtered and concentrated under reduced pressure to afford a residue that was purified by column chromatography on silica gel (eluting with 30% ethyl acetate in hexanes) to afford an oil that was dissolved in methanol (2 mL) and cooled to 0° C. The cold solution was then treated dropwise with acetyl chloride (290 μL, 4.0 mmol), and then maintained at room temperature overnight. The reaction was concentrated to dryness to afford (1R,2R)-2-pyridin-2-yl-cyclopropanecarboxylic acid ((2S,3S)-2-amino-3-methyl-pentyl)-(4-cyclobutylmethoxy-phenyl)-amide (56 mg, 88% yield) as a white solid: 1H NMR (400 MHz, MeOD) δ 8.61 (d, J=5.3 Hz, 1H), 8.34 (t, J=8.3 Hz, 1H), 7.79 (t, J=6.7 Hz, 1H), 7.54 (d, J=8.3 Hz, 1H), 7.37 (d, J=8.6 Hz, 2H), 6.99 (d, J=8.3 Hz, 2H), 4.28 (dd, J=14.9, 8.8 Hz, 1H), 3.94 (d, J=6.6 Hz, 2H), 3.69 (dd, J=14.9, 2.8 Hz, 1H), 3.34-3.39 (m, 1H), 2.86-2.96 (m, 1H), 2.77 (dt, J=14.6, 7.2 Hz, 1H), 2.08-2.21 (m, 3H), 1.85-2.02 (m, 5H), 1.73-1.84 (m, 1H), 1.67 (dt, J=8.8, 5.5 Hz, 1H), 1.33-1.46 (m, 1H), 1.17-1.30 (m, 1H), 0.98 (d, J=6.8 Hz, 3H), 0.87 (t, J=7.5 Hz, 3H); LRMS (ESI) m/e 422.3 [(M+H)+, calcd for C26H36N3O2 422.3].

reactant | tert-butyl (2S,3S)-1-((1R,2R)—N-(4-hydroxyphenyl)-2-(pyridin-2-yl)cyclopropanecarboxamido)-3-methylpentan-2-ylcarbamate | 0.15 mmol, 69 mg | OC1=CC=C(C=C1)N(C(=O)[C@H]1[C@@H](C1)C1=NC=CC=C1)C[C@H]([C@H](CC)C)NC(OC(C)(C)C)=O | C26H35N3O4
reactant | potassium carbonate | 0.46 mmol, 63 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cyclobutylmethyl bromide | 0.18 mmol, 21 μL | C1(CCC1)CBr | C5H9Br
reactant | acetyl chloride | 4.0 mmol, 290 μL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 2 mL | CO | CH4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (1R,2R)-2-pyridin-2-yl-cyclopropanecarboxylic acid ((2S,3S)-2-amino-3-methyl-pentyl)-(4-cyclobutylmethoxy-phenyl)-amide | 56 mg, 88% yield | N[C@H](CN(C(=O)[C@H]1[C@@H](C1)C1=NC=CC=C1)C1=CC=C(C=C1)OCC1CCC1)[C@H](CC)C | C26H35N3O2
